US03947470
3-(4-Methoxybenzoyl)-2-phenylbenzofuran (16.4 g., 0.05 mol.) is combined with 50 g. of freshly distilled pyridine hydrochloride and the mixture is refluxed 1 hour. The hot mixture is poured with stirring onto an ice-dilute hydrochloric acid mixture and the precipitate is collected to give 3-(4-hydroxybenzoyl)-2-phenylbenzofuran.

reactant | 3-(4-Methoxybenzoyl)-2-phenylbenzofuran | 0.05 mol, 16.4 g | COC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C22H16O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 3-(4-hydroxybenzoyl)-2-phenylbenzofuran | OC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C21H14O3
